US07737152B2
6-(Pyridin-3-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine, CJS 721
Using Method X with 150 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine and 3-hydroxypyridine, the title compound was obtained (46 mg). Yield: 26%. 1H NMR (250 MHz, DMSO-d6) δ 3.41 (s, 6H), 3.54 (s, 3H), 6.71 (s, 2H), 7.47 (ddd, 1H, J1=0.6 Hz, J2=4.7 Hz, J3=8.4 Hz), 7.69 (ddd, 1H, J1=1.4 Hz, J2=2.8 Hz, J3=8.4 Hz), 7.82 (s, 1H), 7.98 (s, 1H), 8.43 (dd, 1H, J1=1.4 Hz, J2=4.7 Hz), 8.54 (dd, 1H, J1=0.5 Hz, J2=2.8 Hz), 9.61 (s, 1H). 13C NMR (62.9 MHz, DMSO-d6) δ 55.32, 60.04, 95.95, 120.94, 124.52, 128.42, 128.91, 132.34, 136.10, 142.68, 145.66, 150.31, 150.38, 152.71, 156.84. m/z 355.1 [(M+H)+ calcd for C18H18N4O4 354.1].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 150 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | 6-(Pyridin-3-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine | Yield: 26% | N1=CC(=CC=C1)OC1=CN=CC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C18H18N4O4
